### PR TITLE
Modal type theory

### PR DESCRIPTION
**Pull request by fredrik-bakke**
### Additions
- Module on modal type theory, including
  - Define the flat modality
  - Define the sharp modality
  - Start work on their adjunction
  - Some basic definitions about codiscrete types and the flat modal operator
- Some additions on higher modalities
  - Introduce (strong) subuniverse induction as a relaxation of modal subuniverse induction
  - Show we can induct on the identity types with a higher modality without appealing to univalence using strong subuniverse induction
  - Start on functorial properties of higher modalities
  - Multivariable sections is a definition of sections of multivariable maps that make it possible to circumvent applying function extensionality in many cases.
  
(If we at some point in the future want a module on simplicial homotopy type theory, then it would be fruitful to develop the module on modal type theory further :))
 
### A regression
It has become clear that the current formulation of higher modalities is not the most practical one, as it needs to assume everything is sufficiently contained within a single universe. In addition, the small relaxation to locally small types seems somewhat contentless and makes the formalizations more cumbersome. I have started a new line of formalization to fix these problems in #890.

### CODE REVIEW

File: src/foundation/disequality.lagda.md [hunk 1]
```diff
@@ -0,0 +1,143 @@
...
+open import foundation-core.empty-types
+open import foundation-core.identity-types
+open import foundation-core.propositions
+```
+
+</details>
+
+## Idea
+
+Two terms `x` and `y` are **disequal** whenever `¬ (x ＝ y)` is inhabited.
```
Comment (EgbertRijke) [inline src/foundation/disequality.lagda.md:32]: I have never heard the terminology "disequality" before, and I can't even find a reference that it is an English word at all. Elemenets that are unequal are usually said to be unequal

https://www.merriam-webster.com/dictionary/unequal

Comment (EgbertRijke) [reply src/foundation/disequality.lagda.md:32]: Also note that we have files about apartness, which is the constructively useful variant of inequality.

Comment (fredrik-bakke) [reply src/foundation/disequality.lagda.md:32]: It's in the hott UF book I'm pretty sure

Comment (fredrik-bakke) [reply src/foundation/disequality.lagda.md:32]: Yep. 1.12.3. It seems to be their preferred term

Comment (EgbertRijke) [reply src/foundation/disequality.lagda.md:32]: Well, I would vote to not go along with that. Our library convention is to use US English, not to use fantasy English.

Comment (fredrik-bakke) [reply src/foundation/disequality.lagda.md:32]: I'm aware of apartness relations, I just figured that disequality was central enough to deserve its own file. It's routinely mentioned in the file on apartness relations.

Comment (fredrik-bakke) [reply src/foundation/disequality.lagda.md:32]: The current terminology used in our library seems to be "negation of equality". Do you want to preserve that?

Comment (EgbertRijke) [reply src/foundation/disequality.lagda.md:32]: That is certainly a good point!

Comment (EgbertRijke) [reply src/foundation/disequality.lagda.md:32]: > The current terminology used in our library seems to be "negation of equality". Do you want to preserve that?

Yes. Unfortunately "inequality" is used differently in mathematics, so we could go with "negated equality".

Comment (EgbertRijke) [reply src/foundation/disequality.lagda.md:32]: There's lots of very good stuff in this PR btw. Sorry to be picking on this.

File: Makefile [hunk 2]
```diff
@@ -1,5 +1,5 @@
 
-CHECKOPTS := --without-K --exact-split --guardedness
+CHECKOPTS := --without-K --exact-split --guardedness --cohesion --flat-split --rewriting
```
Comment (EgbertRijke) [inline Makefile:2]: What do you need rewriting for?

File: src/foundation/disequality.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation/disequality.lagda.md:32]: Absolutely no worries. It's a very important concept, so it deserves to be discussed.

File: Makefile (hunk 2 above)
Comment (fredrik-bakke) [reply Makefile:2]: Nothing currently. I mention that it's probably not needed in the PR message body.

Comment (fredrik-bakke) [reply Makefile:2]: I will leave it until the PR is ready for review, in case something changes. I don't believe so, though.

Comment (EgbertRijke) [reply Makefile:2]: Ah, I interpreted that as if it was used somewhere, but somehow not needed. So it is not used?

Comment (fredrik-bakke) [reply Makefile:2]: The work about the flat modality builds on Dan Licata's repository on cohesion in Agda. The work about the sharp modality builds mostly on Felix Cherubini's work on it in DCHoTT-Agda. I think Dan uses rewriting, but it's been a little while since I looked at it.

Comment (fredrik-bakke) [reply Makefile:2]: Not used currently. :)

Comment (fredrik-bakke) [reply Makefile:2]: By the way, I use the term "strong subuniverse induction" in this PR. That's just something I came up with, so if you have an opinion on it I would love to hear it.

Comment (EgbertRijke) [reply Makefile:2]: At least it is English, lol:)

In which file can I find it?

File: src/orthogonal-factorization-systems/subuniverse-induction.lagda.md [hunk 3]
```diff
@@ -0,0 +1,387 @@
...
+
+  compute-ind-subuniverse-modality :
+    ind-subuniverse-modality → UU (lsuc l1 ⊔ l2)
+  compute-ind-subuniverse-modality ind-○ =
+    (X : UU l1) (P : ○ X → UU l1) (is-modal-P : is-modal-family unit-○ P) →
+    (f : (x : X) → P (unit-○ x)) → (ind-○ X P is-modal-P f ∘ unit-○) ~ f
+
+  induction-principle-subuniverse-modality : UU (lsuc l1 ⊔ l2)
+  induction-principle-subuniverse-modality =
+    Σ ind-subuniverse-modality compute-ind-subuniverse-modality
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/subuniverse-induction.lagda.md:55]: Usually induction principles in our library state that a certain evaluation map has a section

File: Makefile (hunk 2 above)
Comment (fredrik-bakke) [reply Makefile:2]: `orthogonal-factorization-systems.subuniverse-induction`

File: src/orthogonal-factorization-systems/subuniverse-induction.lagda.md (hunk 3 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/subuniverse-induction.lagda.md:55]: Right. Sadly all of my definitions in the OFS folder use this formulation 🤦‍♂️

Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/subuniverse-induction.lagda.md:55]: I'll try to assess the damage someday soon.

Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/subuniverse-induction.lagda.md:55]: probably just have to add one extra definition in each file

File: src/orthogonal-factorization-systems/subuniverse-induction.lagda.md [hunk 4]
```diff
@@ -0,0 +1,387 @@
...
+
+## Idea
+
+TODO
+
+## Definition
+
+Nonstandard terminology
+
+### Subuniverse induction
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/subuniverse-induction.lagda.md:33]: This is the induction principle of a modality. Wouldn't it be more descriptive if we would call this modal induction?

When you say "subuniverse induction" you make it sound like a principle by which to prove something for all types in the subuniverse, eg, as would be possible for finite types or for finite CW-complexes.

File: src/orthogonal-factorization-systems/subuniverse-induction.lagda.md (hunk 3 above)
Comment (EgbertRijke) [reply src/orthogonal-factorization-systems/subuniverse-induction.lagda.md:55]: You'll make your life a lot easier if you formulate it as evaluation maps that have sections. This way it is not bad at all to prove dependent universal properties. Also note that evaluation maps often commute nicely on the nose, or commute not quite on the nose but still nicely:)

File: src/orthogonal-factorization-systems/subuniverse-induction.lagda.md (hunk 4 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/subuniverse-induction.lagda.md:33]: So, what about _strong_ induction? It relaxes the assumption that types are modal, to only require a retraction of the unit.

File: Makefile (hunk 2 above)
Comment (fredrik-bakke) [reply Makefile]: Just a note, I've removed `--rewriting` now

File: src/orthogonal-factorization-systems/subuniverse-induction.lagda.md (hunk 3 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/subuniverse-induction.lagda.md]: So one of the reasons I probably didn't originally implement this was to reduce the need to use function extensionality. However, I've resolved this in a different way now by defining sections of maps of maps using binary homotopies. Following #797, this definition should probably be changed in the future to something like "sections of multivariable maps"

File: src/orthogonal-factorization-systems/subuniverse-induction.lagda.md (hunk 4 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/subuniverse-induction.lagda.md:36]: There's a file called `induction-modality` that defines "modal induction" in the sense of constructing sections into the strict image of a modal operator. Subuniverse induction as defined here is slightly different in the sense that it requires proof that types are (pre)modal. When the modality is not idempotent then these are of course different notions, hence why I've made a distinction.

File: src/orthogonal-factorization-systems/subuniverse-induction.lagda.md (hunk 3 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/subuniverse-induction.lagda.md]: I'm getting more and more excited for that PR, btw! Have you seen my newest PR to your branch? 😊

Comment (EgbertRijke) [reply src/orthogonal-factorization-systems/subuniverse-induction.lagda.md]: I'll have a look. For some reason I don't receive notifications about it

**Comment by fredrik-bakke** [comment]
After getting better acquainted with how large constructions work in Agda, I'm wondering if the better definition of a modal operator is a family of operators at all universe levels (with an `α : Level → Level`). This would also avoid the issue of having to deal with locally small types. Would you know of any reason to not make this change?

**Comment by EgbertRijke** [comment]
Sorry, I am missing some context? What problem would this solve?

I'd suggest formalizing large modalities separately, rather than converting all work on small modalities to large modalities.

**Comment by fredrik-bakke** [comment]
My bad! The issue is I'm not sure the notion of "small modalities" is a good one. About half of the theorems I prove can only be stated for operators of the form `UU l → UU l`, or `UU l → Locally-Small-Type l' l`. By moving to the large case we make sure that the operator can always be composed with itself regardless of universe levels

**Comment by fredrik-bakke** [comment]
For the large operators, we of course recover the theorems for the small ones by restricting to a particular universe level.

**Comment by fredrik-bakke** [comment]
And I can't think of any operator that only works up to a bounded universe level

**Comment by fredrik-bakke** [comment]
Also, this avoids having to involve locally small types

**Comment by EgbertRijke** [comment]
> And I can't think of any operator that only works up to a bounded universe level

Not being able to think of some examples is not an argument to remove reasonable code though. I'd still say that we should write the theory of large modalities separately.

File: src/modal-type-theory/flat-sharp-adjunction.lagda.md [hunk 5]
```diff
@@ -0,0 +1,150 @@
...
+  sf2 =
+    rec-♯
+      ( ♭ A)
+      ( promote
+        ( λ _ → ♯ (♭ A))
+        ( λ _ → is-codiscrete-♯ (♭ A))
+        ( λ x → unit-♯ (cons-♭ x)))
+
+  -- is-section-sf2 : sf1 ∘ sf2 ~ id
+  -- is-section-sf2 = {!  ind-♯ ? ?!}
```
Comment (fredrik-bakke) [inline src/modal-type-theory/flat-sharp-adjunction.lagda.md:144]: TODO

File: src/modal-type-theory/flat-sharp-adjunction.lagda.md [hunk 6]
```diff
@@ -0,0 +1,150 @@
...
+  pr1 equiv-ap-♭-unit-♯ = ap-♭-unit-♯
+  pr2 equiv-ap-♭-unit-♯ = is-equiv-ap-♭-unit-♯
+```
+
+### Sharp after flat
+
+```agda
+module _
+  {@♭ l : Level} {@♭ A : UU l}
+  where
```
Comment (fredrik-bakke) [inline src/modal-type-theory/flat-sharp-adjunction.lagda.md:129]: I wonder if the new `--level-universe` business allows us to omit crispness assumptions on universe levels. I remember this was the only obstruction to showing that the sharp modality was a higher modality using one or two less axioms somewhere.

**Comment by fredrik-bakke** [comment]
As I want to get this PR out of the pipeline as soon as possible, it will be somewhat incomplete. But I will try to fix up the sections I've marked with TODO before I send it off for review.

**Comment by fredrik-bakke** [comment]
This is not because I'm in a rush, but rather because I don't want this PR to go stale.

**Comment by fredrik-bakke** [comment]
Also, note to self to add note that we postulate these things in the file where we list postulates of the library.

**Comment by fredrik-bakke** [comment]
Alright, I'm finally marking this one ready for review. It leaves some unfinished threads, but I'd rather just have it off my shoulders at this point. I'll pick it up again later when the interest finds me.

**Comment by fredrik-bakke** [comment]
Oh, uh, and one awkward thing. I noticed that our definition of `telescope` is strictly incompatible with `--level-universe`. I've made a proposed alternative giving the notion of a "small telescope". This definition has some other benefits as well, like how it admits ways to extract type information. Also, maybe it plays better with Agdas inference algorithm. This comes at the cost of universe polymorphism though.

File: src/foundation/multivariable-sections.lagda.md
Comment (fredrik-bakke) [inline src/foundation/multivariable-sections.lagda.md:1]: This one's worthwhile to take a look at.

File: src/foundation/telescopes.lagda.md [hunk 7]
```diff
@@ -63,6 +63,34 @@ data
...
+data small-telescope (l : Level) : ℕ → UU (lsuc l)
+  where
+  base-small-telescope :
+    UU l → small-telescope l 0
+  cons-small-telescope :
+    {n : ℕ} {X : UU l} →
+    (X → small-telescope l n) → small-telescope l (succ-ℕ n)
+
+open small-telescope public
+```
```
Comment (fredrik-bakke) [inline src/foundation/telescopes.lagda.md:92]: Here's the proposed definition of small telescopes

File: src/orthogonal-factorization-systems/modal-induction.lagda.md [hunk 8]
```diff
@@ -0,0 +1,313 @@
...
+</details>
+
+## Idea
+
+Given a [modal operator](orthogonal-factorization-systems.modal-operators.md)
+`○` and a modal unit, a **modal induction principle** for the modality is a
+[section of maps of maps](foundation.multivariable-sections.md):
+
+```text
+  multivariable-section 2 (precomp-Π unit-○ (○ ∘ P))
```
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/modal-induction.lagda.md:38]:
```suggestion
  multivariable-section 1 (precomp-Π unit-○ (○ ∘ P))
```

File: src/orthogonal-factorization-systems/higher-modalities.lagda.md [hunk 9]
```diff
@@ -171,173 +174,352 @@ module _
...
+    retraction (unit-higher-modality m {x' ＝ y'})
+  pr1 retraction-unit-Id-higher-modality = map-inv-unit-Id-higher-modality
+  pr2 retraction-unit-Id-higher-modality = is-section-unit-Id-higher-modality
 ```
 
-### For homogenous higher modalities, The identity types of modal types are modal in the usual sense
+So far, we have not applied univalence. However, to get the full equivalence in
+general, this is the easiest approach. Note that univalence should not strictly
+be necessary. In the worst case, we could have given a separate definition for
+higher modalities when `l1 = l2`.
```
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/higher-modalities.lagda.md:383]:
```suggestion
We get this retraction without applying univalence, so, using strong subuniverse induction we can generally avoid it. However, we appeal to univalence to get the full equivalence.
```

File: src/modal-type-theory/codiscrete-types.lagda.md [hunk 10]
```diff
@@ -0,0 +1,145 @@
+# Codiscrete types
```
Comment (EgbertRijke) [inline src/modal-type-theory/codiscrete-types.lagda.md:1]: I wonder if the terminology for codiscrete types needs to be disambiguated, for instance into `sharp-codiscrete`. Let's keep the terminology as it is for now, but perhaps keep in mind that we might have to disambiguate in the future. Either way, it is clear from the written text that this development is still subject to change.

File: src/modal-type-theory/codiscrete-types.lagda.md [hunk 11]
```diff
@@ -0,0 +1,145 @@
...
+```
+
+### Codiscreteness is a higher modality
+
+```agda
+module _
+  (l : Level)
+  where
+
+  is-higher-modality-♯ :
```
Comment (EgbertRijke) [inline src/modal-type-theory/codiscrete-types.lagda.md:128]: Would it be more fitting in our naming scheme to call this `is-higher-modality-sharp`, and base the naming scheme for this modality on `sharp`? For instance, we could rename `♯-higher-modality` to `sharp-higher-modality`, but keep `♯` for the modal operator. I think that would be better in line with how we usually use unicode symbols in our naming schemes.

File: src/modal-type-theory/crisp-identity-types.lagda.md [hunk 12]
```diff
@@ -0,0 +1,37 @@
...
+
+## Idea
+
+We record here some basic facts about
+[identity types](foundation-core.identity-types.md) in crisp contexts.
+
+## Properties
+
+```agda
+crisp-ind-path :
```
Comment (EgbertRijke) [inline src/modal-type-theory/crisp-identity-types.lagda.md:26]: Wouldn't it be better to append `crisp` in all things about the crisp modality, so that `crisp` doesn't have to be repeated in longer names?

File: src/modal-type-theory/flat-modality.lagda.md [hunk 13]
```diff
@@ -0,0 +1,240 @@
...
+
+```agda
+module _
+  {@♭ l : Level} {@♭ A : UU l}
+  where
+
+  map-♭-counit-♭ : ♭ (♭ A) → ♭ A
+  map-♭-counit-♭ (cons-♭ x) = x
+
+  diag-♭ : ♭ A → ♭ (♭ A)
```
Comment (EgbertRijke) [inline src/modal-type-theory/flat-modality.lagda.md:130]: Probably it wouldn't hurt to spell out `diagonal`

File: src/modal-type-theory/flat-modality.lagda.md [hunk 14]
```diff
@@ -0,0 +1,240 @@
...
+
+  map-crisp-distributive-♭-function-types : ♭ (A → B) → (@♭ A → ♭ B)
+  map-crisp-distributive-♭-function-types = map-crisp-distributive-♭-Π
+
+  map-distributive-♭-function-types : ♭ (A → B) → (♭ A → ♭ B)
+  map-distributive-♭-function-types f (cons-♭ x) =
+    map-crisp-distributive-♭-function-types f x
+```
+
+### Flat distributes over Σ-types
```
Comment (EgbertRijke) [inline src/modal-type-theory/flat-modality.lagda.md:183]: Would it be possible to put flat Σ-types into a separate file?

File: src/modal-type-theory/flat-modality.lagda.md [hunk 15]
```diff
@@ -0,0 +1,240 @@
...
+
+```agda
+Σ♭ : {@♭ l1 l2 : Level} (@♭ A : UU l1) (@♭ B : A → UU l2) → UU (l1 ⊔ l2)
+Σ♭ A B = Σ (♭ A) (λ {(cons-♭ x) → ♭ (B x)})
```
Comment (EgbertRijke) [inline src/modal-type-theory/flat-modality.lagda.md:187]: Probably introduce flat Σ-types separately, i.e. under its own header.

I also think `Σ-♭` or `♭-Σ` would be more in line with our naming scheme. For instance, we have `Σ-𝔽` for the Σ-operation on finite types.

File: src/modal-type-theory/flat-sharp-adjunction.lagda.md [hunk 16]
```diff
@@ -0,0 +1,285 @@
...
+open import orthogonal-factorization-systems.modal-induction
+open import orthogonal-factorization-systems.uniquely-eliminating-modalities
+```
+
+</details>
+
+## Idea
+
+We postulate that the [flat modality](modal-type-theory.flat-modality.md) `♭` is
+a crisp left adjoint to the
```
Comment (EgbertRijke) [inline src/modal-type-theory/flat-sharp-adjunction.lagda.md:39]: Do we have a notion of crisp adjunction?

File: src/modal-type-theory/flat-sharp-adjunction.lagda.md [hunk 17]
```diff
@@ -0,0 +1,285 @@
...
+[sharp modality](modal-type-theory.sharp-modality.md) `♯`.
+
+In [The sharp modality](modal-type-theory.sharp-modality.md) we postulated that
+`♯` is a modal operator that has a
```
Comment (EgbertRijke) [inline src/modal-type-theory/flat-sharp-adjunction.lagda.md:43]: Should modal operator be hyperlinked here?

File: src/modal-type-theory/flat-sharp-adjunction.lagda.md [hunk 18]
```diff
@@ -0,0 +1,285 @@
...
+[modal induction principle](orthogonal-factorization-systems.modal-induction.md).
+In the file [Codiscrete types](modal-type-theory.codiscrete-types.md), we
+postulated that the subuniverse of sharp modal types has appropriate closure
```
Comment (EgbertRijke) [inline src/modal-type-theory/flat-sharp-adjunction.lagda.md:46]:
```suggestion
postulated that the [subuniverse](foundation.subuniverses.md) of sharp modal types has appropriate closure
```

or link to foundation-core if it exists

File: src/modal-type-theory/flat-sharp-adjunction.lagda.md [hunk 19]
```diff
@@ -0,0 +1,285 @@
...
+  ap-♯-cons-♭ : ♯ A → ♯ (♭ A)
+  ap-♯-cons-♭ =
+    rec-♯
+      ( crisp-rec-♯
+        ( ♯ (♭ A))
+        ( is-codiscrete-♯ (♭ A))
+        ( λ x → unit-♯ (cons-♭ x)))
+```
+
+It remains to show that these two are inverses to eachother.
```
Comment (EgbertRijke) [inline src/modal-type-theory/flat-sharp-adjunction.lagda.md:221]:
```suggestion
It remains to show that these two are inverses to each other.
```

File: src/modal-type-theory/flat-types.lagda.md [hunk 20]
```diff
@@ -0,0 +1,94 @@
...
+open import foundation.universe-levels
+
+open import modal-type-theory.flat-modality
+```
+
+</details>
+
+## Idea
+
+A crisp type is said to be **flat** if it is
```
Comment (EgbertRijke) [inline src/modal-type-theory/flat-types.lagda.md:29]: Should `crisp type` be hyperlinked?

File: src/modal-type-theory/sharp-modality.lagda.md [hunk 21]
```diff
@@ -0,0 +1,208 @@
...
+open import orthogonal-factorization-systems.locally-small-modal-operators
+open import orthogonal-factorization-systems.modal-induction
+open import orthogonal-factorization-systems.modal-subuniverse-induction
+```
+
+</details>
+
+## Idea
+
+The **sharp modality `♯`** is an axiomatized monadic modality we postulate as a
```
Comment (EgbertRijke) [inline src/modal-type-theory/sharp-modality.lagda.md:29]: hyperlink modality

File: src/modal-type-theory/sharp-modality.lagda.md [hunk 22]
```diff
@@ -0,0 +1,208 @@
...
+right adjoint to the [flat modality](modal-type-theory.flat-modality.md).
```
Comment (EgbertRijke) [inline src/modal-type-theory/sharp-modality.lagda.md:30]: hyperlink right adjoint

File: src/modal-type-theory/sharp-modality.lagda.md [hunk 23]
```diff
@@ -0,0 +1,208 @@
...
+
+In this file, we only postulate that `♯` is a modal operator that has a
```
Comment (EgbertRijke) [inline src/modal-type-theory/sharp-modality.lagda.md:32]: hyperlink modal operator

File: src/modal-type-theory/sharp-modality.lagda.md [hunk 24]
```diff
@@ -0,0 +1,208 @@
...
+[modal induction principle](orthogonal-factorization-systems.modal-induction.md).
+In the file about [codiscrete types](modal-type-theory.codiscrete-types.md), we
+postulate that the subuniverse of sharp modal types has appropriate closure
```
Comment (EgbertRijke) [inline src/modal-type-theory/sharp-modality.lagda.md:35]: hyperlink subuniverse

File: src/modal-type-theory/sharp-modality.lagda.md [hunk 25]
```diff
@@ -0,0 +1,208 @@
...
+properties. In
+[the flat-sharp adjunction](modal-type-theory.flat-sharp-adjunction.md), we
+postulate that it has the appropriate relation to the flat modality, making it a
+lex modality. Please note that there is some redundancy between the postulated
```
Comment (EgbertRijke) [inline src/modal-type-theory/sharp-modality.lagda.md:39]: hyperlink lex modality

File: src/orthogonal-factorization-systems/functoriality-higher-modalities.lagda.md [hunk 26]
```diff
@@ -0,0 +1,175 @@
...
+
+open import orthogonal-factorization-systems.higher-modalities
+open import orthogonal-factorization-systems.modal-induction
+open import orthogonal-factorization-systems.modal-operators
+open import orthogonal-factorization-systems.modal-subuniverse-induction
+```
+
+</details>
+
+## Properties
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/functoriality-higher-modalities.lagda.md:30]: Would you be willing to write an idea section that explains what is meant by functoriality of higher modality? I.e., that for every map `f : A -> B` there is a unique map `Lf : LA -> LB` such that a square commutes, that this preserves composition, identifications, homotopies, equivalences, and so on

File: src/orthogonal-factorization-systems/functoriality-higher-modalities.lagda.md [hunk 27]
```diff
@@ -0,0 +1,175 @@
...
+   ○ X ----> ○ Y.
+        ○ f
+```
+
+```agda
+module _
+  {l1 l2 : Level} (m : higher-modality l1 l2)
+  where
+
+  naturality-unit-higher-modality :
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/functoriality-higher-modalities.lagda.md:95]: Do you derive uniqueness anywhere?

File: src/orthogonal-factorization-systems/functoriality-higher-modalities.lagda.md [hunk 28]
```diff
@@ -0,0 +1,175 @@
...
+        ( ap-map-higher-modality m g)
+        ( compute-rec-higher-modality m (unit-higher-modality m ∘ f) x) ∙_)
+      ( is-section-right-concat-inv
+        ( compute-rec-higher-modality m (unit-higher-modality m ∘ g) (f x))
+        ( compute-rec-higher-modality m (unit-higher-modality m ∘ g ∘ f) x)))
+```
+
+### Action on homotopies
+
+This definition of action on homotopies avoids using function extensionality.
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/functoriality-higher-modalities.lagda.md:157]: Hyperlink homotopies and hyperlink function extensionality

File: src/orthogonal-factorization-systems/modal-induction.lagda.md [hunk 29]
```diff
@@ -0,0 +1,313 @@
...
+</details>
+
+## Idea
+
+Given a [modal operator](orthogonal-factorization-systems.modal-operators.md)
+`○` and a modal unit, a **modal induction principle** for the modality is a
+[section of maps of maps](foundation.multivariable-sections.md):
+
+```text
+  multivariable-section 1 (precomp-Π unit-○ (○ ∘ P))
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/modal-induction.lagda.md:38]: Could you display the type of this function too? I think most readers would find that helpful:)

File: src/orthogonal-factorization-systems/modal-induction.lagda.md [hunk 30]
```diff
@@ -0,0 +1,313 @@
...
+
+  ap-map-ind-modality :
+    ind-modality unit-○ → {X Y : UU l1} → (X → Y) → ○ X → ○ Y
+  ap-map-ind-modality ind-○ =
+    ap-map-rec-modality (rec-ind-modality unit-○ ind-○)
+```
+
+### Naturality of the unit
+
+For every `f : X → Y` there is an associated naturality square
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/modal-induction.lagda.md:250]: Hyperlink naturality square to commuting squares of maps

File: src/orthogonal-factorization-systems/modal-subuniverse-induction.lagda.md [hunk 31]
```diff
@@ -0,0 +1,474 @@
...
+
+Given a [modal operator](orthogonal-factorization-systems.modal-operators.md)
+`○` and a modal unit, we can form the [subuniverse](foundation.subuniverses.md)
+of modal types as those types whose unit is an
+[equivalence](foundation-core.equivalences.md). A **modal subuniverse induction
+principle** for the modality is then a
+[section of maps of maps](foundation.multivariable-sections.md):
+
+```text
+  multivariable-section (precomp-Π unit-○ P)
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/modal-subuniverse-induction.lagda.md:38]: Don't forget to display the types of your functions:)

File: src/orthogonal-factorization-systems/modal-subuniverse-induction.lagda.md [hunk 32]
```diff
@@ -0,0 +1,474 @@
...
+```
+
+for all families of modal types `P` over some `○ X`.
+
+Note that for such principles to coincide with
+[modal induction](orthogonal-factorization-systems.modal-induction.md), the
+modality must be idempotent.
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/modal-subuniverse-induction.lagda.md:45]: hyperlink idempotent

File: src/orthogonal-factorization-systems/modal-subuniverse-induction.lagda.md [hunk 33]
```diff
@@ -0,0 +1,474 @@
...
+  compute-rec-recursion-principle-subuniverse-modality I {Y = Y} is-modal-Y =
+    is-multivariable-section-map-multivariable-section 1
+      ( precomp unit-○ Y)
+      ( I is-modal-Y)
+```
+
+### Strong subuniverse induction
+
+We can weaken the assumption that the codomain is modal and only ask that the
+unit has a retraction. We call this principle **strong subuniverse induction**.
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/modal-subuniverse-induction.lagda.md:131]: Hyperlink retraction

File: src/orthogonal-factorization-systems/open-modalities.lagda.md [hunk 34]
```diff
@@ -60,39 +61,39 @@ module _
...
+                ( λ _ → ap-const a (eq-is-prop (is-prop-type-Prop Q))))) ∙
+            ( eq-htpy-refl-htpy (λ _ → a))))
+
+  induction-principle-open-modality :
+    induction-principle-modality {l} (unit-open-modality Q)
+  pr1 (induction-principle-open-modality P) = ind-open-modality P
+  pr2 (induction-principle-open-modality P) = compute-ind-open-modality P
 ```
 
 For local smallness with respect to the appropriate universe level, we must take
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/open-modalities.lagda.md:86]: hyperlinks to local smallness and universe levels?

File: src/set-theory/cardinalities.lagda.md [hunk 35]
```diff
@@ -27,11 +28,13 @@ open import foundation.universe-levels
...
 
-The cardinality of a set is its isomorphism class. We take isomorphism classes
-of sets by set truncating the universe of sets of any given universe level. Note
-that this definition takes advantage of the univalence axiom: By the univalence
-axiom isomorphic sets are equal, and will be mapped to the same element in the
-set truncation of the universe of all sets.
+The **cardinality** of a [set](foundation-core.sets.md) is its isomorphism
+class. We take isomorphism classes of sets by
+[set truncating](foundation.set-truncations.md) the universe of sets of any
+given universe level. Note that this definition takes advantage of the
```
Comment (EgbertRijke) [inline src/set-theory/cardinalities.lagda.md:34]: Hyperlink universe level

File: src/set-theory/cardinalities.lagda.md [hunk 36]
```diff
@@ -27,11 +28,13 @@ open import foundation.universe-levels
...
+[univalence axiom](foundation.univalence.md): By the univalence axiom isomorphic
```
Comment (EgbertRijke) [inline src/set-theory/cardinalities.lagda.md:35]: Hyperlink isomorphism?

...perhaps to isomorphisms in a category?

**Review by EgbertRijke — APPROVED** [review]
This is a very excellent pull request! Well done, and my apologies that I didn't get to review it sooner.

File: src/modal-type-theory/sharp-modality.lagda.md (hunk 22 above)
Comment (fredrik-bakke) [reply src/modal-type-theory/sharp-modality.lagda.md:30]: We don't have the notion of right adjoints in the sense that is meant here formalized. Do you want me to link to a web page where it is discussed?

File: src/modal-type-theory/codiscrete-types.lagda.md (hunk 11 above)
Comment (fredrik-bakke) [reply src/modal-type-theory/codiscrete-types.lagda.md:128]: Absolutely

File: src/modal-type-theory/sharp-modality.lagda.md (hunk 25 above)
Comment (fredrik-bakke) [reply src/modal-type-theory/sharp-modality.lagda.md:39]: This si not formalized yet.

File: src/modal-type-theory/flat-sharp-adjunction.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [reply src/modal-type-theory/flat-sharp-adjunction.lagda.md:39]: What do you mean? We haven't formalized such a thing.

File: src/modal-type-theory/flat-types.lagda.md (hunk 20 above)
Comment (fredrik-bakke) [reply src/modal-type-theory/flat-types.lagda.md:29]: Where would I link, to `flat-modality`? A crisp type is just a type in a crisp context.

File: src/orthogonal-factorization-systems/functoriality-higher-modalities.lagda.md (hunk 28 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/functoriality-higher-modalities.lagda.md:157]: Funnily, the formalization applies funext. I'll remark it as future work.

File: src/orthogonal-factorization-systems/modal-subuniverse-induction.lagda.md (hunk 32 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/modal-subuniverse-induction.lagda.md:45]: We only have preidempotents formalized.

File: src/set-theory/cardinalities.lagda.md (hunk 36 above)
Comment (fredrik-bakke) [reply src/set-theory/cardinalities.lagda.md:35]: We actually have isomorphisms-of-sets :)

File: src/orthogonal-factorization-systems/functoriality-higher-modalities.lagda.md (hunk 27 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/functoriality-higher-modalities.lagda.md:95]: Uniqueness of what?

Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/functoriality-higher-modalities.lagda.md:95]: Oh, never mind. No, this is not formalized. I mention it in `orthogonal-factorization-systems.localizations-subuniverses` as future work.

**Comment by fredrik-bakke** [comment]
After I recently updated pre-commit or Python on my machine, it has started formatting scripts differently, so now they are not passing the CI check anymore.

**Comment by fredrik-bakke** [comment]
Thank you for your invaluable review, Egbert. I have addressed everything I was able to, but there are some questions remaining.
